* 10-bit SAR ADC top-level testbench -- REBUILT from sar_adc_tb.spice.
*
* Changes from the original sar_adc_tb.spice (both born from the testbench
* mistakes found and fixed earlier this session, applied here proactively):
*
*  1. COLD-START CONDITIONS (.ic/UIC). The original file let ngspice solve
*     a DC operating point for t=0 with phi_s already mid-cycle, which in
*     two earlier testbenches (cdac10_tb.spice, cdac_comp_chain_tb.spice)
*     produced a non-physical startup transient on vdac (up to ~400mV in
*     one case) that took hundreds of ns to settle and corrupted early
*     measurements. Applying the same .ic/UIC fix here up front, rather
*     than discovering the same artifact a third time.
*
*  2. DONE-VERIFIED READOUT. The original file assumed done asserts at
*     ~20.5us and read result.* at a fixed t=21.5us. This testbench
*     instead measures the ACTUAL time done asserts via .meas ... WHEN,
*     and separately reads result.* at a time with generous margin AFTER
*     that, rather than trusting an assumed fixed schedule.
*
*  3. PER-BIT TRACE PROBES. comp_x, comp_y, comp_in, sr_qbar, and every
*     cdac_sw.N are probed at full resolution, not just the final result,
*     so the actual bit-by-bit decision sequence can be checked against
*     the precomputed ideal trajectory (see table below) -- this directly
*     tests whether comp_in correctly hands off each decision to the SAR
*     logic, which was the original motivation for this rebuild.
*
* Circuit topology and clk/clkbar/phi_s/rst/start timing are UNCHANGED
* from the original file -- that structure was reviewed carefully and
* found sound: every register in sar_logic_fixed.spice clocks on clkin's
* RISING edge (confirmed from the actual gate-level netlist, all
* sky130_fd_sc_hd__dfrtp_1/dfstp_2 cells), comp_in feeds combinationally
* into the logic driving cdac_sw.* and result.*, so a single clk edge
* both captures the prior bit's decision and advances to the next trial
* -- exactly what the original ~990ns settle / ~1010ns evaluate-and-latch
* margin per period was built around.
*
* vin = 1.2V (matches the run that showed the -77 LSB discrepancy).
*
* IDEAL bit-by-bit trajectory for vin=1.2V, vcm=0.9V, vref=1.8V (computed
* from vdac = vcm-vin+vref*trial_D/1024, KEEP if vdac<vcm):
*   bit9: trial_D=512  vdac=0.6000  KEEP   -> D=512
*   bit8: trial_D=768  vdac=1.0500  CLEAR  -> D=512
*   bit7: trial_D=640  vdac=0.8250  KEEP   -> D=640
*   bit6: trial_D=704  vdac=0.9375  CLEAR  -> D=640
*   bit5: trial_D=672  vdac=0.8813  KEEP   -> D=672
*   bit4: trial_D=688  vdac=0.9094  CLEAR  -> D=672
*   bit3: trial_D=680  vdac=0.8953  KEEP   -> D=680
*   bit2: trial_D=684  vdac=0.9023  CLEAR  -> D=680
*   bit1: trial_D=682  vdac=0.8988  KEEP   -> D=682
*   bit0: trial_D=683  vdac=0.9006  CLEAR  -> D=682 (FINAL)
* Final expected D = 682 = 1010101010 (NOT 683 -- the SAR algorithm
* converges to whichever code keeps vdac just under vcm; 683 overshoots
* by construction on the last trial and is correctly rejected. The
* earlier -77 LSB figure was computed against 683 and should be -76 LSB
* against the true algorithmic target of 682 -- a 1 LSB correction that
* doesn't change the conclusion that something is seriously wrong, but
* is worth using the correct reference going forward.)

.lib /Users/nizansari/.volare/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include "sar_logic_fixed.spice"
.include "cdac_prefix.spice"

* -------------------------
* Comparator subcircuit (verified block, unchanged from original file --
* port order VDD X Y CLK VIN2 VIN1, evaluates while CLK high)
* -------------------------
.subckt strongarm_comparator VDD X Y CLK VIN2 VIN1
XS1 P CLK VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XS3 X CLK VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM5 X Y VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM6 Y X VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XS4 Y CLK VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XS2 Q CLK VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 Y X Q 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM3 X Y P 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM1 P VIN1 net1 0 sky130_fd_pr__nfet_01v8 L=0.15 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 Q VIN2 net1 0 sky130_fd_pr__nfet_01v8 L=0.15 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM7 net1 CLK 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends strongarm_comparator

* -------------------------
* Supplies and references (unchanged)
* -------------------------
Vvdd vdd 0 DC 1.8
Vvref vref 0 DC 1.8
Vvcm vcm 0 DC 0.9
Vvin vin 0 DC 1.8

* -------------------------
* Clocks (unchanged from original -- reviewed and confirmed sound: clk
* rises at 500n/2500n/4500n/..., giving vdac ~990ns to settle after each
* cdac_sw update before clkbar rises and the comparator evaluates, then
* ~1010ns margin for the comparator+SR-latch to resolve before the NEXT
* clk rising edge reads comp_in)
* -------------------------
Vclk    clk    0 PULSE(0 1.8 500n 1n 1n 990n 2000n)
Vclkbar clkbar 0 PULSE(1.8 0 500n 1n 1n 990n 2000n)

* -------------------------
* Phase / control (unchanged from original)
* -------------------------
Vphi_s phi_s 0 PULSE(0 1.8 100n 1n 1n 300n 100u)
Vrst   rst   0 PULSE(0 1.8 0   1n 1n 50n 100u)
Vstart start 0 PULSE(0 1.8 450n 1n 1n 200n 100u)

* -------------------------
* Block instantiations (unchanged)
* -------------------------
Xcdac vdac cdac_sw.9 cdac_sw.8 cdac_sw.7 cdac_sw.6 cdac_sw.5
+      cdac_sw.4 cdac_sw.3 cdac_sw.2 cdac_sw.1 cdac_sw.0
+      vref vdd 0 vin phi_s vcm cdac

Xcmp vdd comp_x comp_y clkbar vdac vcm strongarm_comparator

Xsr_q    comp_x sr_qbar 0 0 vdd vdd comp_in  sky130_fd_sc_hd__nand2_1
Xsr_qbar comp_y comp_in 0 0 vdd vdd sr_qbar  sky130_fd_sc_hd__nand2_1

Xsar clk rst start comp_in
+     cdac_sw.9 cdac_sw.8 cdac_sw.7 cdac_sw.6 cdac_sw.5
+     cdac_sw.4 cdac_sw.3 cdac_sw.2 cdac_sw.1 cdac_sw.0
+     result.9 result.8 result.7 result.6 result.5
+     result.4 result.3 result.2 result.1 result.0
+     done vdd 0 sar_logic

* -------------------------
* Cold-start initial conditions (NEW). vdac starts at its reset target
* (vcm=0.9V); the CDAC's internal sampled-input node and all bottom
* plates start at vin (1.2V), matching what they'll be driven to once
* phi_s's sample pulse [100n,400n] actually runs. This avoids the
* DC-operating-point startup artifact found twice earlier this session.
* -------------------------
.ic v(vdac)=0.9 v(xcdac.vin_s)=1.8 v(xcdac.bp9)=1.8 v(xcdac.bp8)=1.8 v(xcdac.bp7)=1.8 v(xcdac.bp6)=1.8
+   v(xcdac.bp5)=1.8 v(xcdac.bp4)=1.8 v(xcdac.bp3)=1.8 v(xcdac.bp2)=1.8 v(xcdac.bp1)=1.8 v(xcdac.bp0)=1.8 v(xcdac.bpt)=1.8

* -------------------------
* Simulation. Stop time generous (24us) relative to the ~20.5us original
* estimate, since done's actual assertion time is now verified rather
* than assumed -- if it asserts later than expected, this still catches it.
* -------------------------
.tran 1n 24u UIC


* Find the ACTUAL time done asserts, rather than assuming ~20.5us.
.meas tran t_done when v(done)=0.9 rise=1

* Read result.* at a fixed, generous time (23us) well past even a
* somewhat-later-than-expected done assertion. t_done (above) gives the
* real assertion time to sanity-check this margin was actually adequate
* after the run -- if t_done is close to 23us, this margin should be
* revisited and result.* re-read further out.
.meas tran b9 find v(result.9) at=23u
.meas tran b8 find v(result.8) at=23u
.meas tran b7 find v(result.7) at=23u
.meas tran b6 find v(result.6) at=23u
.meas tran b5 find v(result.5) at=23u
.meas tran b4 find v(result.4) at=23u
.meas tran b3 find v(result.3) at=23u
.meas tran b2 find v(result.2) at=23u
.meas tran b1 find v(result.1) at=23u
.meas tran b0 find v(result.0) at=23u

* Per-bit trace: cdac_sw.* at each trial's settle point (mid-evaluate,
* same +1490ns-into-period offset used successfully in
* cdac_comp_chain_tb.spice), to compare against the ideal trajectory
* table in the header. Period N's trial code is asserted at clk's Nth
* rising edge (500n, 2500n, 4500n, ... +500n+2000n*N), and clkbar's
* evaluate phase begins ~990ns after that -- read at +1500ns into each
* period (10ns of extra margin past clkbar's rise) for a clean post-
* evaluate snapshot of the trial in progress.
.meas tran sw9_bit9 find v(cdac_sw.9) at=2000n
.meas tran compin_bit9 find v(comp_in) at=2000n

.meas tran sw9_bit8 find v(cdac_sw.9) at=4000n
.meas tran sw8_bit8 find v(cdac_sw.8) at=4000n
.meas tran compin_bit8 find v(comp_in) at=4000n

.meas tran sw7_bit7 find v(cdac_sw.7) at=6000n
.meas tran compin_bit7 find v(comp_in) at=6000n

.meas tran sw6_bit6 find v(cdac_sw.6) at=8000n
.meas tran compin_bit6 find v(comp_in) at=8000n

.meas tran sw5_bit5 find v(cdac_sw.5) at=10000n
.meas tran compin_bit5 find v(comp_in) at=10000n

.meas tran sw4_bit4 find v(cdac_sw.4) at=12000n
.meas tran compin_bit4 find v(comp_in) at=12000n

.meas tran sw3_bit3 find v(cdac_sw.3) at=14000n
.meas tran compin_bit3 find v(comp_in) at=14000n

.meas tran sw2_bit2 find v(cdac_sw.2) at=16000n
.meas tran compin_bit2 find v(comp_in) at=16000n

.meas tran sw1_bit1 find v(cdac_sw.1) at=18000n
.meas tran compin_bit1 find v(comp_in) at=18000n

.meas tran sw0_bit0 find v(cdac_sw.0) at=20000n
.meas tran compin_bit0 find v(comp_in) at=20000n

.meas tran vdac_post_reset FIND v(vdac) AT=410n
.meas tran vdac_kick PARAM='vdac_post_reset - 0.9'

.end
